US07951824B2
Step 2: (2-Amino-thiazol-4-yl)-acetonitrile
To a solution of 2.0 g (13.0 mmol) of 2-(2-Amino-thiazol-4-yl)-acetamide in 30 ml of dry DMF was added Phosphorus oxychloride (2.3 ml, 25.0 mmol, 2.0 equiv.) dropwise at 0° C.

reactant | 2-(2-Amino-thiazol-4-yl)-acetamide | 13.0 mmol, 2.0 g | NC=1SC=C(N1)CC(=O)N | C5H7N3OS
reactant | Phosphorus oxychloride | 25.0 mmol, 2.3 ml, 2.0 equiv. | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | (2-Amino-thiazol-4-yl)-acetonitrile | NC=1SC=C(N1)CC#N | C5H5N3S
